US08258130B2
A mixture of 3-ethyl-pyrrolo[2,3-b]pyridin-1-ylamine (126 mg, 0.78 mmol), 2-(3-Fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (180 mg, 0.78 mmol), HATU (356 mg, 0.036 mmol) and DIPEA (302 mg, 2.34 mmol) in DMF (4 mL) is heated at 150° C. for 1 h. The reaction is quenched with water and extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and concentrated. The residue is chromatographed through silica gel eluting with 0-100% ethyl acetate in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-ethyl-pyrrolo[2,3-b]pyridin-1-yl)-amide (128 mg). MS: 376 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 9.10 (s, 1H), 8.25-8.33 (m, 2H), 8.16 (d, 1H), 8.05 (d, 1H), 7.62 (q, 1H), 7.39-7.48 (m, 2H), 7.16 (dd, 1H), 2.78 (s, 3H), 2.75 (q, 2H), 1.29(t, 3H).

reactant | 3-ethyl-pyrrolo[2,3-b]pyridin-1-ylamine | 0.78 mmol, 126 mg | C(C)C1=CN(C2=NC=CC=C21)N | C9H11N3
reactant | 2-(3-Fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 0.78 mmol, 180 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HATU | 0.036 mmol, 356 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.34 mmol, 302 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-ethyl-pyrrolo[2,3-b]pyridin-1-yl)-amide | 128 mg | C(C)C1=CN(C2=NC=CC=C21)NC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C | C21H18FN5O
